US07517875B2
After dissolving 4-aminomethyl-piperidine (10 g) in acetonitrile (250 ml), 3,4-dichlorobenzyl chloride (5.8 g) and potassium carbonate (5 g) were added at room temperature, and the mixture was stirred at 60° C. overnight. The reaction mixture was filtered, the solvent was removed under reduced pressure, and the obtained residue was purified by thin-layer silica gel chromatography (dichloromethane/methanol/triethylamine=85/7/7) to obtain C-[1-(3,4-dichloro-benzyl)-piperidin-4-yl]-methylamine. The compound was identified by LC-MS.

reactant | 4-aminomethyl-piperidine | 10 g | NCC1CCNCC1 | C6H14N2
reactant | 3,4-dichlorobenzyl chloride | 5.8 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | C-[1-(3,4-dichloro-benzyl)-piperidin-4-yl]-methylamine | ClC=1C=C(CN2CCC(CC2)CN)C=CC1Cl | C13H18Cl2N2
